US07312241B2
[4-(tert-Butyldimethylsilanyloxy)-3-methoxyphenyl]-(3,5-dimethoxyphenyl)methanone (3.64 g, 9.04 mmol), cyanomethylphosphonic acid diethyl ester (2.85 ml, 18.08 mmol) in anhydrous THF (10 ml), and lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 18.08 ml, 18.08 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude was purified via flash column chromatography (5% EtOAc in hexane gradient to 20% EtOAc in hexane in about 30 min.) to give 3-[4-(tert-butyl-dimethyl-silanyloxy)-3-methoxy-phenyl]-3-(3,5-dimethoxy-phenyl)-acrylonitrile as a white solid (3.00 g, 78%). The product was carried over to the next step without further purification.

reactant | [4-(tert-Butyldimethylsilanyloxy)-3-methoxyphenyl]-(3,5-dimethoxyphenyl)methanone | 9.04 mmol, 3.64 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(=O)C1=CC(=CC(=C1)OC)OC)OC | C22H30O5Si
reactant | cyanomethylphosphonic acid diethyl ester | 18.08 mmol, 2.85 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis(trimethylsilyl)amide | 18.08 mmol, 1.0 M, 18.08 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[4-(tert-butyl-dimethyl-silanyloxy)-3-methoxy-phenyl]-3-(3,5-dimethoxy-phenyl)-acrylonitrile | 3.00 g, 78% | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C(=CC#N)C1=CC(=CC(=C1)OC)OC)OC)(C)C | C24H31NO4Si
